US08865736B2
3-[2-(4-Chloro-phenyl)-oxazol-4-ylmethoxy]-2,6-difluoro-benzamide
To a solution of 4-Chloromethyl-2-(4-chloro-phenyl)-oxazole (0.20 g, 0.87 mmol) in 2 ml of anhydrous DMF was added 2,6-Difluoro-3-hydroxy-benzamide (0.15 g, 0.78 mmol) and potassium carbonate (0.363 g, 2.60 mmol). The reaction mixture was stirred at 25° C. for 24 h under nitrogen atmosphere. The reaction mixture was evaporated to dryness under reduced pressure and the residue was purified by column chromatography on silica (60-120 M) using ethyl acetate/hexane (50:50) as the eluent to provide the title compound as white solid (0.10 g, 31%). 1H NMR (DMSO-d6, 400 MHz): δ 5.14 9s, 2H), 7.12 (t, J=9.20 Hz, 1H), 7.40 (m, 1H), 7.63 (d, J=8.40, 2H), 7.85 (br s, 1H), 8.0 (d, J=8.40 Hz, 2H), 8.13 (br s, 1H) and 8.36 (s, 1H). MS ES+ (365.13), HPLC (method I) Rt=16.36 min.

reactant | 4-Chloromethyl-2-(4-chloro-phenyl)-oxazole | 0.87 mmol, 0.20 g | ClCC=1N=C(OC1)C1=CC=C(C=C1)Cl | C10H7Cl2NO
reactant | 2,6-Difluoro-3-hydroxy-benzamide | 0.78 mmol, 0.15 g | FC1=C(C(=O)N)C(=CC=C1O)F | C7H5F2NO2
reactant | potassium carbonate | 2.60 mmol, 0.363 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 3-[2-(4-Chloro-phenyl)-oxazol-4-ylmethoxy]-2,6-difluoro-benzamide | 0.10 g, 31% | ClC1=CC=C(C=C1)C=1OC=C(N1)COC=1C(=C(C(=O)N)C(=CC1)F)F | C17H11ClF2N2O3
